US09062066B2
The synthesis of 1-bromo-4-(ethoxymethyl)benzene
NaOH (0.1 g, 2.4 mmol) was added to 2 ml of degassed dimethylformamide and 4-bromobenzylalcohol (0.3 g, 1.6 mmol) was further added slowly. Iodoethane (0.14 ml, 1.76 mmol) was added at room temperature followed by stirring for 2 hours. The mixture was added with 50 ml of 2N c HCl and extracted with 50 ml of ethylacetate. The organic layer was washed twice with 50 ml of H2O. After concentration under vacuum and column chromatography (ethylacetate/n-hexane, 1/10), the title compound (0.17 g, 48%) was obtained as yellowish oil.

reactant | NaOH | 2.4 mmol, 0.1 g | [OH-].[Na+]
reactant | 4-bromobenzylalcohol | 1.6 mmol, 0.3 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | Iodoethane | 1.76 mmol, 0.14 ml | ICC | C2H5I
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-bromo-4-(ethoxymethyl)benzene | 0.17 g, 48% | BrC1=CC=C(C=C1)COCC | C9H11BrO
